US09108936B2
To a solution of 4-chloro-2-ethylsulfanyl-6-methyl-benzonitrile (0.9 g, 4.26 mmol) in dioxane (90 ml) are added morpholine (0.56 g, 6.39 mmol) and sodium tert-butoxide (1.2 g, 12.8 mmol). The reaction mixture is degassed and flushed with Argon for 30 min and then (2-biphenyl)di-tert-butylphosphine (0.25 g, 0.85 mmol) and bis(dibenzylideneacetone)-palladium(0) (0.5 g, 0.85 mmol) are added. The reaction mixture is stirred at 100° C. for 16 h. After completion of the reaction (monitored by TLC), the reaction mixture is filtered through a pad of celite pad. The filtrate is concentrated to get the crude product, which is purified by column chromatography (silica gel, 5% acetone/hexane) to yield 2-ethylsulfanyl-6-methyl-4-morpholin-4-yl-benzonitrile (0.30 g, 1.14 mmol, 27%).

reactant | 4-chloro-2-ethylsulfanyl-6-methyl-benzonitrile | 4.26 mmol, 0.9 g | ClC1=CC(=C(C#N)C(=C1)C)SCC | C10H10ClNS
reactant | morpholine | 6.39 mmol, 0.56 g | N1CCOCC1 | C4H9NO
reactant | sodium tert-butoxide | 12.8 mmol, 1.2 g | CC(C)([O-])C.[Na+]
reactant | (2-biphenyl)di-tert-butylphosphine | 0.85 mmol, 0.25 g | CC(C)(C)P(C1=CC=CC=C1C2=CC=CC=C2)C(C)(C)C | C20H27P
solvent | dioxane | 90 ml | O1CCOCC1 | C4H8O2
catalyst | bis(dibenzylideneacetone)-palladium(0) | 0.85 mmol, 0.5 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | 2-ethylsulfanyl-6-methyl-4-morpholin-4-yl-benzonitrile | 1.14 mmol, 0.30 g, 27% | C(C)SC1=C(C#N)C(=CC(=C1)N1CCOCC1)C | C14H18N2OS
